US07138425B2
a) 2-(3-Nitro-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-6-propylaminophenyl)-5-bromobenzoxazole (400 mg, 1.59 mmol) and 3-methyl-4-chlorophenylboronic acid (271 mg, 1.59 mmol) the subtitle compound was obtained (230 mg, 34%). The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-propylaminophenyl)-5-bromobenzoxazole | 1.59 mmol, 400 mg | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)Br | C16H14BrN3O3
reactant | 3-methyl-4-chlorophenylboronic acid | 1.59 mmol, 271 mg | CC=1C=C(C=CC1Cl)B(O)O | C7H8BClO2
product | 2-(3-Nitro-6-propylaminophenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)Cl)C | C23H20ClN3O3
